US07265246B2
C. C-(3-Phenylfuran-2-yl)methylamine
Stir a solution of 3-phenylfuran-2-carbaldehyde (401 mg, 2.33 mmol) and NH4OAc (1.79 g, 23.30 mmol) in methanol (8 mL) at room temperature under nitrogen. Add NaCNBH3 (102 mg, 1.63 mmol). After stirring at room temperature for 24 hours, concentrate the mixture, dilute with water (2 mL), basify with 1N sodium hydroxide, and extract with diethyl ether (4×10 mL). Dry the combined organic phases (magnesium sulfate), filter and concentrate. Perform flash chromatography on silica gel eluting with 9:1 ethyl acetate/MeOH to afford 37 mg of the title compound as a yellow solid. 1H NMR (CDCl3) δ 7.19-7.41 (m, 6H), 6.49 (d, J=2 Hz, 1H), 3.95(s, 2H), 1.80 (br s, 2H).

reactant | 3-phenylfuran-2-carbaldehyde | 2.33 mmol, 401 mg | C1(=CC=CC=C1)C1=C(OC=C1)C=O | C11H8O2
reactant | NaCNBH3 | 1.63 mmol, 102 mg | [BH3-]C#N.[Na+]
solvent | methanol | 8 mL | CO | CH4O
product | C-(3-Phenylfuran-2-yl)methylamine | 37 mg | C1(=CC=CC=C1)C1=C(OC=C1)CN | C11H11NO
